US07119122B2
2,3-Dihydroxybenzaldehyde (1.16 g, 8.40 mmol), potassium carbonate (1.16 g, 8.40 mmol) and 1-iodopropane (0.82 mL, 1.43 g, 8.40 mmol) in dry DMF (10 mL) were stirred at ambient temperature for 20 h. The reaction mixture was poured into water and extracted with diethyl ether. The diethyl ether layer was washed with water (2×), then extracted with 1N sodium hydroxide solution (3×). The basic extracts were combined and acidified by addition of 3N hydrochloric acid, then extracted with diethyl ether. The ether layer was washed with 10% sodium hydrogen carbonate (3×), water (1×), brine (1×), and dried over MgSO4. After filtration, the solvent was removed in vacuo to yield 3-hydroxy-2-propoxybenzaldehyde (0.64 g, 42%) as a yellow solid.

reactant | 2,3-Dihydroxybenzaldehyde | 8.40 mmol, 1.16 g | OC1=C(C=O)C=CC=C1O | C7H6O3
reactant | potassium carbonate | 8.40 mmol, 1.16 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-iodopropane | 8.40 mmol, 0.82 mL, 1.43 g | ICCC | C3H7I
reactant | water | O | H2O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 3-hydroxy-2-propoxybenzaldehyde | 0.64 g, 42% | OC=1C(=C(C=O)C=CC1)OCCC | C10H12O3
